US07420001B2
To 3-methyl-4-pyridin-3-yl-benzofuran-2-carboxylic acid (123 mg, 0.49 mmol) in 4 mL of DMF was added (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid methyl ester (352 mg, 0.97 mmol), BOP (429 mg, 0.97 mmol), and N,N-diisopropylethylamine (0.17 mL, 0.97 mmol). The mixture was stirred at room temperature overnight. The reaction mixture was poured into brine, and extracted with ethyl acetate. The combined organic solution was washed with brine and water. Removal of solvent in vacuo gave the crude product, which was purified by column chromatography on silica gel to give 115 mg of (S)-3-methyl-2-{4′-[(3-methyl-4-pyridin-3-yl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-butyric acid methyl ester, obtained as white solid.

reactant | 3-methyl-4-pyridin-3-yl-benzofuran-2-carboxylic acid | 0.49 mmol, 123 mg | CC1=C(OC2=C1C(=CC=C2)C=2C=NC=CC2)C(=O)O | C15H11NO3
reactant | (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid methyl ester | 0.97 mmol, 352 mg | COC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)N)=O | C18H22N2O4S
reactant | BOP | 0.97 mmol, 429 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.97 mmol, 0.17 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | (S)-3-methyl-2-{4′-[(3-methyl-4-pyridin-3-yl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-butyric acid methyl ester | 115 mg | COC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1C)C(=CC=C2)C=2C=NC=CC2)=O | C33H31N3O6S
